US05541169
Preparation of 3-(4-(2-propynyloxy)styryl-ONN-azoxy)-2-butanol
44.39 g (134.4 mmol) of 3-(4-(2-propynyloxy)-styryl-ONN-azoxy)-2,2-propylenedioxybutane, a compound disclosed in EP-A-443,513 was subjected to deketalization reaction with iron chloride-silica gel according to the process disclosed in EP-A-443,513 to give 38.94 g of a crude product of 3-(4-(2-propynyloxy)styryl-ONN-azoxy)-2-butanone as a colorless paste. This was dissolved in a mixed solvent of 80 ml of dimethylformamide and 240 ml of methanol, 5 g (134.4 mmol) of sodium borohydride was added, and the mixture was stirred under ice cooling for 1 hour. After the reaction, 300 ml of water and 200 ml of ethyl acetate were added to the reaction solution to carry out extraction. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (diethyl ether-hexane =2:1) to give 30.75 g of the desired compound as a colorless paste (yield 83%).

reactant | 3-(4-(2-propynyloxy)styryl-ONN-azoxy)-2-butanone | C(C#C)OC1=CC=C(C=C[N+]([O-])=NC(C(C)=O)C)C=C1 | C15H16N2O3
reactant | sodium borohydride | 134.4 mmol, 5 g | [BH4-].[Na+]
reactant | water | 300 ml | O | H2O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | methanol | 240 ml | CO | CH4O
product | 3-(4-(2-propynyloxy)styryl-ONN-azoxy)-2-butanol | 30.75 g, yield 83% | C(C#C)OC1=CC=C(C=C[N+]([O-])=NC(C(C)O)C)C=C1 | C15H18N2O3
